US08217066B2
Step 1: 2-{[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-amino}-1-phenyl-ethanol:
Prepared according to the procedure described in Example 21, Step 1, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 2-amino-1-phenyl-ethanol.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-amino-1-phenyl-ethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | 2-{[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-amino}-1-phenyl-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CNCC(O)C1=CC=CC=C1 | C19H19BrN2O2
